US04118573
The procedure of method B above was repeated with 2.5 g. of 1-dimethylaminosulfonyl-2-amino-6-benzimidazolecarboxylic acid hydrazide and 10 g. of Raney nickel to yield 1-dimethylaminosulfonyl-2-amino-6-benzimidazolecarboxamide, m.p. about 206°-208° C. A second crop was obtained from the mother liquors.

reactant | 1-dimethylaminosulfonyl-2-amino-6-benzimidazolecarboxylic acid hydrazide | CN(S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(=O)NN)N)C | C10H14N6O3S
catalyst | Raney nickel | [Ni] | Ni
product | 1-dimethylaminosulfonyl-2-amino-6-benzimidazolecarboxamide | CN(S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(=O)N)N)C | C10H13N5O3S
